US09399637B2
Step 2) tert-butyl 9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
A mixture of tert-butyl 9-((2-chloro-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (1.2 g, 3.0 mmol), 2,3-dimethylindazol-6-amine hydrochloride (896.5 mg, 4.536 mmol), diacetoxypalladium (132.4 mg, 0.5898 mmol), BINAP (370.3 mg, 0.5947 mmol) and dicesium carbonate (2.98 g, 9.15 mmol) was dissolved in anhydrous dioxane (10 mL). The reaction mixture was stirred under microwave irradiation at 150° C. for 2 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1) to give the title compound as a yellow solid (1.04 g, 66%).

reactant | tert-butyl 9-((2-chloro-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 3.0 mmol, 1.2 g | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C20H31ClN4O2
reactant | 2,3-dimethylindazol-6-amine hydrochloride | 4.536 mmol, 896.5 mg | Cl.CN1N=C2C=C(C=CC2=C1C)N
reactant | BINAP | 0.5947 mmol, 370.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | dicesium carbonate | 9.15 mmol, 2.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | diacetoxypalladium | 0.5898 mmol, 132.4 mg | C(C)(=O)O[Pd]OC(C)=O
product | tert-butyl 9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 1.04 g, 66% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C29H41N7O2
